US04818273
Preparation of 5,7,N-trimethyl-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide
A mixture of 3.00 g (8.06 mmol) of 5,7-dimethyl-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide and 0.90 g (8.1 mmol) of potassium t-butoxide in 30 ml of acetonitrile was heated at reflux for 40 minutes. After cooling to room temperature 1.14 g (8.06 mmol) of methyl iodide was added, and the reaction was heated to reflux for 1 hour. After cooling to room temperature, the reaction mixture was diluted with methylene chloride and washed with 1% aqueous NaOH. The organic phase was separated, dried (MgSO4) and evaporated at reduced pressure. The brown solid residue was recrystallized from acetone to give 1.60 g (51%) of the desire product as a tan solid, mp 220°-222° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | 5,7-dimethyl-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 8.06 mmol, 3.00 g | CC1=NC=2N(C(=C1)C)N=C(N2)S(=O)(=O)NC2=C(C=CC=C2Cl)Cl | C13H11Cl2N5O2S
reactant | potassium t-butoxide | 8.1 mmol, 0.90 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 8.06 mmol, 1.14 g | CI | CH3I
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,7,N-trimethyl-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 1.60 g, 51% | CC1=NC=2N(C(=C1)C)N=C(N2)S(=O)(=O)N(C2=C(C=CC=C2Cl)Cl)C | C14H13Cl2N5O2S
